US07192945B2
1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-carboxymethylthio-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-bromo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine (113 mg, 0.24 mmol), Cs2CO3 (170 mg, 0.52 mmol) and ethyl thioglycolate (0.060 ml, 0.54 mmol) in DMF (4.0 ml) were subjected to microwave irradiation in a Smith Synthesiser at 80° C. for 3 min and then at 90° C. for 8 min. The reaction mixture was diluted with water (250 ml) and extracted with DCM (5×10 ml) and collected organic layers were dried (MgSO4), concentrated and purified on a short column (petroleum ether: EtOAc 4:1→2:1). The resulting product was dissolved in THF (2 ml) and water (2 ml) and NaOH (aq., 0.5 ml, 1 M) was added and the reaction mixture was stirred at room temperature for 2 hours. The reaction was quenched with HCl (1 M) and the reaction mixture was diluted with water (10 ml) and extracted with DCM (3×3 ml). Purification with preparative HPLC yielded the title compound (58 mg, 59%). NMR (300 MHz, CD3OD) 0.81 (m, 6H), 1.00–1.70 (m, 8H), 3.21 (m, 2H), 3.42 (m, 2H), 3.71 (m, 2H), 3.92 (s, 3H), 6.88 (m, 2H), 7.02 (m, 2H), 7.23 (t, 2H), 7.40 (s, 1H).

reactant | 1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-bromo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 0.24 mmol, 113 mg | O=S1(CC(CN(C2=C1C=C(C(=C2)Br)OC)C2=CC=CC=C2)(CC)CCCC)=O | C22H28BrNO3S
reactant | Cs2CO3 | 0.52 mmol, 170 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl thioglycolate | 0.54 mmol, 0.060 ml | C(CS)(=O)OCC | C4H8O2S
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
product | 1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-carboxymethylthio-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 58 mg, 59% | O=S1(CC(CN(C2=C1C=C(C(=C2)SCC(=O)O)OC)C2=CC=CC=C2)(CC)CCCC)=O | C24H31NO5S2
